US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, 5-(dimethylamino)naphthalene-1-sulfonyl chloride (0.321 g, 1.19 mmol) was reacted with 2-azidoethanamine (0.103 g, 1.19 mmol) and triethylamine (0.241 g, 2.38 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-5-(dimethylamino)naphthalene-1-sulfonamide (0.328 g, 86%). 1H NMR (300 MHz, CDCl3) δ 8.52 (d, 1H), δ 8.28 (d, 1H), δ 8.22 (d, 1H), δ 7.53 (t, 1H), δ 7.50 (t, 1H), δ 7.17 (d, 1H), δ 5.58 (t, 1H), δ 3.28 (t, 2H), δ 3.03 (q, 2H), δ 2.85 (s, 6H) ppm; 13C NMR (75 MHz, CDCl3) δ 152.3, 134.8, 130.9, 130.1, 129.7, 128.9, 123.4, 118.9, 115.6, 51.0, 45.6, 42.6 ppm; HRMS (ESI) calcd for C14H17N5O2S (M+) 319.1103. found 319.1104.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 5-(dimethylamino)naphthalene-1-sulfonyl chloride | 1.19 mmol, 0.321 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | 2-azidoethanamine | 1.19 mmol, 0.103 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.38 mmol, 0.241 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-5-(dimethylamino)naphthalene-1-sulfonamide | 0.328 g, 86% | N(=[N+]=[N-])CCNS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C | C14H17N5O2S
